US04558043
5 mg of platinum oxide are added to a solution of 250 mg (1.00 mmole) of crude 5-chloro-2-hydroxy-6-(piperidin-1-yl)-2,3-dihydrobenzofuran in 5 ml of absolute ethanol and the whole is hydrogenated at room temperature and 3 atmospheres. The catalyst is filtered off and the filtrate is concentrated in a vacuum rotary evaporator. The residue is chromatographed over silica gel using methylene chloride as eluant. Recrystallisation from petroleum ether yields 5-chloro-6-(piperidin-1-yl)-2,3-dihydrobenzofuran having a melting point of 38°-40°.

reactant | 5-chloro-2-hydroxy-6-(piperidin-1-yl)-2,3-dihydrobenzofuran | 1.00 mmole, 250 mg | ClC=1C(=CC2=C(CC(O2)O)C1)N1CCCCC1 | C13H16ClNO2
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | platinum oxide | 5 mg | [Pt]=O
product | 5-chloro-6-(piperidin-1-yl)-2,3-dihydrobenzofuran | ClC=1C(=CC2=C(CCO2)C1)N1CCCCC1 | C13H16ClNO
